* aux/filter/ota-c-svf — gm-C integrator corner = gm/(2*pi*C) (LIBRARY generic check)
* Generic representative values (NO netlist_bind by design — there is no netlist behind a
* library block). The OTA-C SVF integrator is a transconductor gm driving a cap C; its
* unity-gain frequency / 1st-order corner is f = gm/(2*pi*C). Plugin ref: the Simper SVF
* coefficient g = tan(pi*f0/fs) ~ pi*f0/fs = (pi/fs)*(gm/C)/(2pi)... the analog ω0 = gm/C.
*
* Representative pick for a CLEAN round corner: C = 10 nF, gm chosen so f = 1.000 kHz exactly.
*   gm = 2*pi*f*C = 2*pi*1000*10nF = 62.832 uS.
* Ideal model justification: Gint is a VCCS (the OTA's I_out = gm*Vin); Cint integrates the
* current. This is exactly the gm-C integrator under test — no LM13700 device model needed,
* because the law f = gm/(2*pi*C) is a property of the transconductor+cap, not the silicon.

.param C=10n
.param fpick=1000
.param gm={2*3.141592653589793*fpick*C}   ; 62.832 uS -> corner at 1.000 kHz

Vac ain 0 AC 1 DC 0
Gint 0 ointg ain ointg {gm}    ; gm-C integrator wired as a 1st-order LP (gm into C, fed back)
Cint ointg 0 {C}

.control
  ac dec 100 10 100k
  meas ac fcorner_hz when vdb(ointg)=-3.01
.endc
.end
